US05641777
A) 1,4-Dibenzyl-4-cyanopiperidine
A solution of 15 g of 4-cyanopiperidine in 250 ml of THF is cooled to -50° C., 190 ml of a 1.5M solution of lithium diisopropylamide in cyclohexane are added dropwise and the mixture is stirred for 30 minutes at -50° C. 34 ml of benzyl bromide are then added and the mixture is stirred for 3 hours after the temperature has been allowed to rise to RT. The reaction mixture is poured into an ice/concentrated HCl mixture, ether is added and the precipitate formed is wrung and washed with water. The precipitate is taken up with water, rendered alkaline to pH 12 by the addition of concentrated NaOH solution and extracted with ether, the organic phase is dried over MgSO4 and the solvent is evaporated off to give 31.7 g of the expected product after crystallization from pentane.

reactant | 4-cyanopiperidine | 15 g | C(#N)C1CCNCC1 | C6H10N2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | benzyl bromide | 34 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | ether | CCOCC | C4H10O
reactant | THF | 250 ml | C1CCOC1 | C4H8O
solvent | cyclohexane | C1CCCCC1 | C6H12
product | 1,4-Dibenzyl-4-cyanopiperidine | 31.7 g | C(C1=CC=CC=C1)N1CCC(CC1)(C#N)CC1=CC=CC=C1 | C20H22N2
